US04110472
3-Diphenylmethyl-5-(2-methoxy-4-allyl-phenoxymethyl)oxazolidine from 3-diphenylmethyl-5-chloromethyl-oxazolidine and sodium eugenolate*; this produce is hydrolysed with alcoholic-aqueous hydrochloric acid to give 1-(2-methoxy-4-allyl-phenoxy)-2-hydroxy-3-diphenylmethylaminopropane hydrochloride with a melting point of 143°.

reactant | 3-Diphenylmethyl-5-(2-methoxy-4-allyl-phenoxymethyl)oxazolidine | C1(=CC=CC=C1)C(N1COC(C1)COC1=C(C=C(C=C1)CC=C)OC)C1=CC=CC=C1 | C27H29NO3
reactant | 3-diphenylmethyl-5-chloromethyl-oxazolidine | C1(=CC=CC=C1)C(N1COC(C1)CCl)C1=CC=CC=C1 | C17H18ClNO
reactant | sodium eugenolate | C1(=C(O)C(=CC(CC=C)=C1)C(=O)[O-])OC.[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(2-methoxy-4-allyl-phenoxy)-2-hydroxy-3-diphenylmethylaminopropane hydrochloride | Cl.COC1=C(OCC(CNC(C2=CC=CC=C2)C2=CC=CC=C2)O)C=CC(=C1)CC=C | InChI=1S/C26H29NO3.ClH/c1-3-10-20-15-16-24(25(17-20)29-2)30-19-23(28)18-27-26(21-11-6-4-7-12-21)22-13-8-5-9-14-22;/h3-9,11-17,23,26-28H,1,10,18-19H2,2H3;1H
